US04288385
Preparation of 2-Methyl-5-nitrobenzyl acetate
A slurry of anhydrous sodium acetate (60.0 g; 0.73 mol) in acetic acid (400 ml) is stirred and 2-methyl-5-nitrobenzyl chloride (45.3 g; 0.24 mol) added. The resulting reaction mixture is heated to reflux and is heated overnight at 115° C., after which time tlc (silica gel; 75/25 hexane/benzene) indicates that no starting material is present. The mixture is cooled down, concentrated in vacuo, and diluted with water. The precipitated solid (48.9 g; 95.8%) is collected and dried. A sample recrystallized from hexane has a melting point of 52°-53.5° C.

reactant | sodium acetate | 0.73 mol, 60.0 g | C(C)(=O)[O-].[Na+]
reactant | 2-methyl-5-nitrobenzyl chloride | 0.24 mol, 45.3 g | CC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C8H8ClNO2
reactant | hexane benzene | CCCCCC.C1=CC=CC=C1
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-5-nitrobenzyl acetate | C(C)(=O)OCC1=C(C=CC(=C1)[N+](=O)[O-])C | C10H11NO4
